* Title: Envelope Detector Circuit
.options savecurrents
.param N=(1/1.354)
.param var1 = 250k
.param var2 = 100k
.param var3 = 250u
*Voltage Source
Vs 1 0 dc sin(0 230 50 0 0 90.0)

*Full-wave Rectifier
D1 GND 2 Default
D2 2 VCC Default
D3 3 VCC Default
D4 GND 3 Default

*Envelope Detector
R1 VCC GND var1
C1 VCC GND var3

*Voltage Regulator
R2 VCC 4 var2

D5 4 5 Default 
D6 5 6 Default 
D7 6 7 Default 
D8 7 8 Default 
D9 8 9 Default 
D10 9 10 Default 
D11 10 11 Default 
D12 11 12 Default 
D13 12 13 Default 
D14 13 14 Default 
D15 14 15 Default 
D16 15 16 Default 
D17 16 17 Default 
D18 17 18 Default 
D19 18 19 Default 
D20 19 20 Default 
D21 20 21 Default
D22 21 GND Default


*Transformer
E1 2 3 1 0 N
F1 1 0 E1 N

.model Default D 

.op
.end
.control
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0
set var1 = 250k
set var2 = 100k
set var3 = 250u


op
tran 50u .22 0.04
hardcopy converter.ps v(1) v(4) 12
hardcopy ed+vr_sim.ps v(VCC) v(4) v(1) 
hardcopy vo_sim.ps {v(4)-12}
echo  "op_TAB"
print mean(v(4)) - 12
print {maximum(v(4))-minimum(v(4))} 
print {2.2+$var1/1000 + $var2/1000 + $var3*1000000}
set deviation = {abs(mean(v(4)) - 12)}
set ripple = {maximum(v(4))-minimum(v(4))}
print 1/((2.2+$var1/1000 + $var2/1000 + $var3*1000000)*($deviation + $ripple + 0.000001))

echo  "op_END"
.endc
